US07524852B2
6-Benzyl-2,4-dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine hydrochloride (35.0 g, 0.106 mol) prepared according to Process Step 2 was dissolved in 1,2-dichloroethane (850 mL), and the solution was mixed with triethylamine (14.9 mL, 0.107 mol) and 1-chloroethyl chloroformate (34.1 mL, 0.316 mol), followed by stirring under reflux for five hours. After checking the completion of the reaction by thin layer chromatography, the reaction mixture was cooled and was mixed with water, followed by separation. The organic layer was washed with brine, was dried over anhydrous magnesium sulfate and was concentrated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1) and thereby yielded a 2,4-dichloro-6-(1-chloroethoxycarbonyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine fraction. After distilling off the solvent, the residue was dissolved in methanol (850 mL), followed by stirring under reflux for one hour. After checking the completion of the reaction by thin layer chromatography, the reaction mixture was concentrated and thereby yielded 2,4-dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine hydrochloride (23.5 g, in a total yield from 6-benzyl-2,4-dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine hydrochloride of 95%).

reactant | 6-Benzyl-2,4-dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine hydrochloride | 0.106 mol, 35.0 g | Cl.C(C1=CC=CC=C1)N1CC2=C(N=C(N=C2Cl)Cl)CC1
reactant | triethylamine | 0.107 mol, 14.9 mL | C(C)N(CC)CC | C6H15N
reactant | 1-chloroethyl chloroformate | 0.316 mol, 34.1 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 850 mL | ClCCCl | C2H4Cl2
product | 2,4-dichloro-6-(1-chloroethoxycarbonyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | ClC=1N=C(C2=C(N1)CCN(C2)C(=O)OC(C)Cl)Cl | C10H10Cl3N3O2
